US05366987
(b) Ethyl (±)-4-formyl-α-phenyl-1H-pyrazole-1-acetate
Phosphorous oxychloride (7.0 mL, 75 mmol) was added dropwise to 14 mL DMF at 0° C. under an atmosphere of N2. The resulting solution was stirred for 0.5 hour and then a solution of ethyl (±)-α-phenyl-1H-pyrazole-1-acetate (5.76 g, 25 mmol) in 5 mL DMF was added dropwise. The resulting orange solution was warmed to 70° C. for 16 hours. The reaction mixture was cooled to 0° C. and carefully quenched with saturated Na2CO3 solution. The reaction mixture was partitioned between water and ether and the ether layer was dried over MgSO4, filtered, and concentrated to give an orange oil. Chromatography (15% EtOAc/hexanes on silica) gave 5.73 g (89%) of the title compound as a yellow/green oil which solidified upon standing; mp 68°-70° C.

reactant | Phosphorous oxychloride | 75 mmol, 7.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl (±)-α-phenyl-1H-pyrazole-1-acetate | 25 mmol, 5.76 g | C1(=CC=CC=C1)C(C(=O)OCC)N1N=CC=C1 | C13H14N2O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 14 mL | CN(C)C=O | C3H7NO
product | Ethyl (±)-4-formyl-α-phenyl-1H-pyrazole-1-acetate | 5.73 g, 89% | C(=O)C=1C=NN(C1)C(C(=O)OCC)C1=CC=CC=C1 | C14H14N2O3
